US04260756
8-(3-Thienyl)-1,2,4-triazolo[4,3-b]pyridazine
As for Example 16, a mixture of 3-dimethylamino-1-(3-thienyl)-2-propen-1-one, 4-amino-1,2,4-triazole and xylene is refluxed for 16 hours to give the product of the Example.

reactant | 3-dimethylamino-1-(3-thienyl)-2-propen-1-one | CN(C=CC(=O)C1=CSC=C1)C | C9H11NOS
reactant | 4-amino-1,2,4-triazole | NN1C=NN=C1 | C2H4N4
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 8-(3-Thienyl)-1,2,4-triazolo[4,3-b]pyridazine | S1C=C(C=C1)C=1C=2N(N=CC1)C=NN2 | C9H6N4S
